US07396844B1
Synthesis of 1-t-butoxycarbonyl-(2R)-2-chloromethylpyrrolidine
500 mg (5 mmol) of (2R)-2-hydroxymethyl-pyrrolidine, 1.1 g (5 mmol) of di-t-butyl dicarbonate and 500 mg (5 mmol) of triethylamine were stirred in dichloromethane at room temperature overnight. The reaction liquid was washed with 0.5 N hydrochloric acid and saturated aqueous common salt solution, and then dried over anhydrous magnesium sulfate. The solvent was distilled off, and the residue was dissolved in 20 ml of dichloromethane. 760 mg (7.5 mmol) of triethylamine and 860 mg (7.5 mmol) of mesyl chloride were added to the solution at 0° C. The obtained mixture was stirred at room temperature for 5 hours. The product was treated with dichloromethane as the extractant in an ordinary manner, and the residue was dissolved in 5 ml of dimethylformamide. 1.06 g (25 mmol) of lithium chloride was added to the solution, and the resultant mixture was stirred at 65° C. overnight. The product was treated with ethyl acetate as the extractant in an ordinary manner to obtain the title compound.

reactant | (2R)-2-hydroxymethyl-pyrrolidine | 5 mmol, 500 mg | OC[C@@H]1NCCC1 | C5H11NO
reactant | di-t-butyl dicarbonate | 5 mmol, 1.1 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 5 mmol, 500 mg | C(C)N(CC)CC | C6H15N
reactant | triethylamine | 7.5 mmol, 760 mg | C(C)N(CC)CC | C6H15N
reactant | mesyl chloride | 7.5 mmol, 860 mg | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | lithium chloride | 25 mmol, 1.06 g | [Cl-].[Li+]
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-t-butoxycarbonyl-(2R)-2-chloromethylpyrrolidine | C(C)(C)(C)OC(=O)N1[C@H](CCC1)CCl | C10H18ClNO2
